US06414148B1
Diethyl azodicarboxylate (522 mg, 3 mmol) was added dropwise to a suspension of 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (364 mg, 1 mmol), (prepared as described for the starting material in Example 48), triphenylphosphine (786 mg, 3 mmol) and 3-methylamino-1-propanol (178 mg, 2 mmol), (J.Am.Chem.Soc., 1954, 76, 2789), in methylene chloride (4 ml) under nitrogen. The mixture was stirred for 1 hour at ambient temperature, neutral alumina (˜20 g) was added to the reaction mixture and the solvent was removed by evaporation. The powder was poured onto a column of neutral alumina and was eluted with a mixture of methylene chloride/methanol (95/5 followed by 90/10 and 80/20). The purified product was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(3-methylaminopropoxy)quinazoline (220 mg, 50%).

reactant | Diethyl azodicarboxylate | 3 mmol, 522 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1 mmol, 364 mg | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11BrFN3O2
reactant | triphenylphosphine | 3 mmol, 786 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-methylamino-1-propanol | 2 mmol, 178 mg | CNCCCO | C4H11NO
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(3-methylaminopropoxy)quinazoline | 220 mg, 50% | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCNC)C=C1)F | C19H20BrFN4O2
